US04159380
(b) 1-Ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-methanol, hydrochloride
49 g. of 1-Ethyl-3-methyl-1H-pyrazolo[3,4-b]-pyridine-5-carboxylic acid, ethyl ester (0.21 mol.) are dissolved in 250 ml. of anhydrous tetrahydrofuran. Nitrogen is passed through the flask and, while stirring and cooling with tap water, 6 g. of lithium aluminum hydride (0.16 mol.) are added in small portions keeping the reaction temperature at 20°. Stirring is continued for an additional three hours at room temperature. Then 3 N-hydrochloric acid (380 ml.) is added, while cooling the flask with ice water, and the cloudy solution is evaporated in vacuo. The residue is dissolved in 95 ml. of hot water and the solution is allowed to stand over the week-end. The crystallized product (8 g. m.p. 207°-208°) is discarded. The aqueous mother liquor is extracted with three 100 ml. portions of chloroform. The combined chloroform extracts are dried with sodium sulfate and evaporated in vacuo. The resulting oily-crystalline mass is sucked off, washed with acetonitrile and dried at 70°, yield: 10 g. (21%) of 1-ethyl-3-methyl-1H-pyrazolo-[3,4-b]pyridine-5-methanol, hydrochloride (1:1); m.p. 169°-170°. A sample recrystallized from acetonitrile melts at 170°-171°.

reactant | 1-Ethyl-3-methyl-1H-pyrazolo[3,4-b]-pyridine-5-carboxylic acid, ethyl ester | 0.21 mol | C(C)N1N=C(C=2C1=NC=C(C2)C(=O)OCC)C | C12H15N3O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 0.16 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 380 ml | Cl | ClH
solvent | water | O | H2O
product | 1-Ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-methanol, hydrochloride | Cl.C(C)N1N=C(C=2C1=NC=C(C2)CO)C | InChI=1S/C10H13N3O.ClH/c1-3-13-10-9(7(2)12-13)4-8(6-14)5-11-10;/h4-5,14H,3,6H2,1-2H3;1H
